US08604061B2
c) (S)-2-Amino-4-(2-chloro-phenyl)-2-methyl-butan-1-ol
To a suspension of lithium aluminum hydride (0.072 g, 1.9 mmol) in tetrahydrofuran (10 ml) was added a solution of (S)-2-amino-4-(2-chloro-phenyl)-2-methyl-butyric acid methyl ester (0.23 g, 0.95 mmol) in tetrahydrofuran (3 ml) and the mixture was stirred for 2 hours. Sodium sulphate solution (2M, 0.3 ml) was added and the mixture was filtered through Celite. The solvent was evaporated and the residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=95:5) to yield a colourless oil, (0.190 g, 93%);

reactant | lithium aluminum hydride | 1.9 mmol, 0.072 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-2-amino-4-(2-chloro-phenyl)-2-methyl-butyric acid methyl ester | 0.95 mmol, 0.23 g | COC([C@@](CCC1=C(C=CC=C1)Cl)(C)N)=O | C12H16ClNO2
reactant | Sodium sulphate | 2M, 0.3 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (S)-2-Amino-4-(2-chloro-phenyl)-2-methyl-butan-1-ol | N[C@](CO)(CCC1=C(C=CC=C1)Cl)C | C11H16ClNO
